### ISSUE TITLE
formal: HasCurve and CommitmentCurve are two vocabularies for one curve; the coupling is restated by every side record

### ISSUE THREAD

**Issue by martyall** [l-adic/snarky#357]
## Problem

Two curve vocabularies with no map between them.

- `HasCurve F` (`snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean`): the gadget layer's curve, a Mathlib `WeierstrassCurve.Affine F` plus the four facts the gate theorems consume (`short`, `prime`, `odd`, `two_ne`).
- `CommitmentCurve` (`bulletproof-pcs/Bulletproof/Wire.lean`): the wire verifier's curve, CompElliptic's `SWCurve` plus `scalar`, sponge, MSM.

They describe the same object (`C.E.toAffine`, `SWPoint.equivPoint`), but nothing in the tree says "the gadget dictionary of a commitment curve is this". `HasCurve.vesta` and `IpaVesta.curve` were each built by hand from `Vesta.curve`; they agree by rfl only because both point at one CompElliptic constant.

Every assembly stated over a generic `C : CommitmentCurve` needs gadget theorems, so it needs a `HasCurve C.BaseField`, and then cannot prove the coupling, so it asks for it as fields:

- `IvpSide` (`Pickles/CheckBulletproof.lean`): `card_nsmul`, `a_zero`, `two_torsion_free`, `eW : e.d.W = C.E.toAffine`, `base_big`.
- `XhatSide` (`Pickles/PublicInputCommit.lean`): `d`, `e`, `card_nsmul`, `order_eq`, `onCurve_cross`, `base_big`.
- `IpaEndo`: its own `d`, `q`, `hq`.

Three records restate one curve; each field is discharged by `rfl` or `vesta_card`/`pallas_card` at both instances, and `ZModModule.char_nsmul_eq_zero (n := …)` is re-extracted at sixteen sites.

## Root cause

`CommitmentCurve` omits two facts about itself:

1. a₄ = 0 (`E.A = 0`).
2. The scalar cardinality is the group order. This is the same datum as "the point group is a `ZMod scalar`-module" (`AddCommGroup.zmodModule` ↔ `ZModModule.char_nsmul_eq_zero`), and its absence is why the wire is written with `(a i).val • g i` everywhere: no action of the scalar field on the points exists on the record.

Everything the side records ask for derives from those two plus the bounds already present. `card_nsmul` alone would not do: exponent ∣ scalar with scalar prime does not give `Nat.card = scalar`, and `HasCurve.prime` / `LadderRegime` are stated on the order.

## Proposal (no-op refactor, probed)

**`Bulletproof/Wire.lean`**

```diff
   E : SWCurve (ZMod base)
+  /-- The curve is short: `y² = x³ + B`. -/
+  a_zero : E.A = 0
+  /-- The scalar cardinality is the group order: `ScalarField` is the scalar ring of `Point`. -/
+  card : Nat.card (SWPoint E) = scalar
```

```lean
theorem CommitmentCurve.card_nsmul (C : CommitmentCurve) (X : C.Point) : C.scalar • X = 0 := by
  rw [← C.card]; exact card_nsmul_eq_zero'

/-- The action is `val •` by rfl, the form the executable verifier computes with. -/
instance CommitmentCurve.pointModule (C : CommitmentCurve) : Module C.ScalarField C.Point :=
  AddCommGroup.zmodModule C.card_nsmul
```

Instances: `a_zero := rfl`, `card := Vesta.card_eq` / `Pallas.card_eq`. All names resolve in `Wire.lean`'s existing import closure.

**New `Pickles/Curve.lean`** (first package that sees both records):

```lean
theorem CommitmentCurve.order_eq (C : CommitmentCurve) : C.E.toAffine.order = C.scalar :=
  (SWPoint.card_eq_point C.E).symm.trans C.card

noncomputable def HasCurve.ofCommitmentCurve (C : CommitmentCurve)
    (hbase : 2 < C.base) (hscalar : 2 < C.scalar) : HasCurve C.BaseField where
  W := C.E.toAffine
  short := ⟨rfl, rfl, rfl, C.a_zero⟩
  prime := C.order_eq ▸ Fact.out
  odd := by rw [C.order_eq]; omega
  two_ne := (from hbase via ZMod.natCast_eq_zero_iff)

theorem HasCurve.ofCommitmentCurve_vesta : HasCurve.ofCommitmentCurve IpaVesta.curve … = HasCurve.vesta := rfl
```

`HasCurve.vesta` / `pallas` stay in snarky (it cannot see bulletproof-pcs); the rfl lemma ties them.

**Consumers**

- `XhatSide` loses `d`, `e`, `card_nsmul`, `order_eq`, `onCurve_cross`; keeps `base_big`, `scalar_lo`, `scalar_hi`, `scalar_mod`.
- `IvpSide` loses `card_nsmul`, `a_zero`, `two_torsion_free`, `eW`.
- The sixteen `ZModModule.char_nsmul_eq_zero (n := …)` sites become `C.card_nsmul`.
- The Pasta point-module instances in `Pasta/Basic.lean` become `CommitmentCurve.pointModule` at the deployed curves, or stay as they are (definitionally equal).

Not in scope: `IpaEndo` / `HasEndo` coupling (`eW`), the same shape one level up.
